US07169809B2
Step 6: 6-bromohexyl (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
A solution of 2.6 g of (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid and 17 g of 1,6-dibromohexane in 30 mL of DMF was stirred at rt with 1.0 g K2CO3 for 1 hr. Then saturated ammonium chloride solution was added and extracted with EtOAc. The organic layer was combined and washed with brine and dried over Na2SO4. The solvent was evaporated and the residue was purified by flash chromatography over silica gel (5–50% EtOAc/hexane) to afford 3.6 g of the titled compound as a white solid. 1H NMR (acetone-d6, 500 M Hz): δ 7.80 (d, 2H), 7.47 (d, 2H), 7.22–7.15 (m, 3H), 7.12–7.05 (m, 2H), 5.21 (s, 2H), 4.27 (t, 2 H), 3.48 (t, 2 H), 3.08 (s, 3H), 1.93 (s, 3H), 1.86–1.80 (m, 2H), 1.74–1.68 (m, 2H), 1.50-1.41 (m, 2H), 1.41-1.34(m, 2H).

reactant | (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 2.6 g | C(C)(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C19H18O6S
reactant | 1,6-dibromohexane | 17 g | BrCCCCCCBr | C6H12Br2
reactant | K2CO3 | 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-bromohexyl (2Z)-4-(acetyloxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 3.6 g | C(C)(=O)OC\C(=C(/C(=O)OCCCCCCBr)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C25H29BrO6S
